US07786132B2
2-(Methylsulfonyl)-4-(3-nitrobenzo[b]thiophen-2-yl)pyrimidine
Nitronium tetrafluoroborate (3.4 mL, 0.5 M in sulfolane, 1.72 mmol) was slowly added at 0° C. to a suspension of 4-(benzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine (0.50 g, 1.72 mmol) in acetonitrile (10 mL). The resulting mixture was stirred at rt for 14 h and concentrated in vacuo. The product was purified by flash chromatography eluting with ethyl acetate/hexane (1:3) to afford the title compound (0.35 g, 57%). MS (M+H)+ 336.

reactant | Nitronium tetrafluoroborate | 1.72 mmol, 0.5 M, 3.4 mL | F[B-](F)(F)F.O=[N+]=O
reactant | 4-(benzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine | 1.72 mmol, 0.50 g | S1C2=C(C=C1C1=NC(=NC=C1)S(=O)(=O)C)C=CC=C2 | C13H10N2O2S2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(Methylsulfonyl)-4-(3-nitrobenzo[b]thiophen-2-yl)pyrimidine | 0.35 g, 57% | CS(=O)(=O)C1=NC=CC(=N1)C1=C(C2=C(S1)C=CC=C2)[N+](=O)[O-] | C13H9N3O4S2
